US07576135B2
6-chloro-4-oxo-4H-chromene-2-carboxylic acid ethyl ester
In an argon atmosphere, ca. 60% oily sodium hydride (1.68 g) was added to ethanol (10 mL). The mixture was stirred at room temperature for 10 minutes. Diethyl oxalate (3.36 mL) was added thereto, 5′-chloro-2′-hydroxyacetophenone (2.82 g) dissolved in ethanol (20 mL) was added dropwise to the resultant mixture, and ethanol (40 mL) was further added, followed by refluxing for 1.5 hours and stirring at 50° C. for 14 hours. To the reaction mixture, concentrated sulfuric acid (1.5 mL) and ethanol (10 mL) were added, and the mixture was refluxed for 4 hours. The resultant mixteure was cooled, concentrated under reduced pressure to reduce the solvent by half, and toluene and 1N aqueous sodium hydroxide (15 mL) were added to the concentrated mixture. The resultant mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, followed by drying over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:1). The resultant solid was washed with hexane, to thereby give the title compound (1.20 g).

reactant | sodium hydride | 1.68 g | [H-].[Na+]
reactant | Diethyl oxalate | 3.36 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 5′-chloro-2′-hydroxyacetophenone | 2.82 g | ClC=1C=CC(=C(C1)C(C)=O)O | C8H7ClO2
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-chloro-4-oxo-4H-chromene-2-carboxylic acid ethyl ester | 1.20 g | C(C)OC(=O)C=1OC2=CC=C(C=C2C(C1)=O)Cl | C12H9ClO4
